US05488055
A mixture of N-(1-cyclopentylpyrazol-5-yl) anthranilic acid (21 g, 0.0775 mol) and POCl3 (100 ml) was refluxed for 8 hours. The reaction mixture was poured into ice-water and neutralized with NH4OH. A gum formed which was extracted with CH2Cl2. The CH2Cl2 layer was then washed with water, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography on silica gel eluting with 40% to 70% CH2Cl2 /hexane to afford 7.5 g of 4-chloro-1-cyclopentyl-1H-pyrazolo[3,4-b]quinoline, m.p. 97°-98 ° C.

reactant | N-(1-cyclopentylpyrazol-5-yl) anthranilic acid | 0.0775 mol, 21 g | C1(CCCC1)N1N=CC=C1NC=1C(C(=O)O)=CC=CC1 | C15H17N3O2
reactant | NH4OH | [NH4+].[OH-]
reactant | POCl3 | 100 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-1-cyclopentyl-1H-pyrazolo[3,4-b]quinoline | 7.5 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2)C2CCCC2 | C15H14ClN3
